US07812040B2
2,5-Dimethoxyphenol.
A mixture of intermediate 56, 2,5-Dimethoxyphenyl Acetate (13.9 g, 0.07 mol) and NaOH (4.26 g, 0.11 mol) in MeOH (150 mL) was stirred for 12 h in a flow of argon. A 5 M solution of NaHSO4 (21 mL) was added, and the mixture was evaporated. The residue was distributed between CH2Cl2 and H2O (300 mL, 1:1). The aqueous layer was separated, and the product was extracted with CH2Cl2 (2×100 mL). The combined extracts were dried and evaporated to give the title compound (10.8 g, 99%). LCMS data: 156.0 and 155.1 (M+H)+ (calculated for C8H10O3 154.1). 1H NMR data (DMSO-d6): 8.96 (s, 1H, Ar—OH), 6.80 (d, 1H, J=8.8 Hz, Ar—H), 6.39 (d, 1H, J=2.9 Hz, Ar—H), 6.39 (dd, 1H, J1=2.9 Hz, J2=8.8 Hz, Ar—H), 3.70 (s, 3H, —OCH3), 3.64 (s, 3H, —OCH3).

reactant | 2,5-Dimethoxyphenyl Acetate | 0.07 mol, 13.9 g | C(C)(=O)OC1=C(C=CC(=C1)OC)OC | C10H12O4
reactant | NaOH | 0.11 mol, 4.26 g | [OH-].[Na+]
reactant | NaHSO4 | 21 mL | OS(=O)(=O)[O-].[Na+]
solvent | MeOH | 150 mL | CO | CH4O
product | 2,5-Dimethoxyphenol | 10.8 g, 99% | COC1=C(C=C(C=C1)OC)O | C8H10O3
